US04198431
n-Butyl N-(3-trifluoromethylphenyl)anthranilate:
In anhydrous dimethyl formamide was dissolved 3.2 g. of potassium salt of N-(3-trifluoromethylphenyl)anthranilic acid. To the solution was added 5.0 g. of n-butyl bromide. The mixture was heated at 100°-120° C. for 5 hrs. while stirring. The precipitated potassium bromide was taken out by filtration. The filtrate was concentrated and the residue obtained was distilled to obtain 3.1 g. of light yellow liquid having a boiling point of 190°-192° C. (5 mmHg).

reactant | potassium | [K] | K
reactant | N-(3-trifluoromethylphenyl)anthranilic acid | FC(C=1C=C(C=CC1)NC=1C(C(=O)O)=CC=CC1)(F)F | C14H10F3NO2
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | n-Butyl N-(3-trifluoromethylphenyl)anthranilate | FC(C=1C=C(C=CC1)NC=1C(C(=O)OCCCC)=CC=CC1)(F)F | C18H18F3NO2
